Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
intubation
 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of alcohol 
withdrawal seizures and is on keppra and phenytoin who had a 
seizure ___ after a fall with a head strike, and went to ___ 
___ and was found to have a small parafalcine SDH. During 
transfer to ___ around 1pm ___, he had a seizure that lasted 
approximately 1 minute, and then again in the ED he had a 
seizure around 1:40pm, which was described as a GTC with eyes 
deviated to the left and was witnessed in the ED. He received 2 
mg of Ativan in the ambulance with EMS. He then received 1000 mg 
keppra in the ED, followed by fosphenytoin 1500 mg PE 
equivalent. 2 mg of Ativan at 2:30pm in the ED. Bolused NS. 
Started on phenobarb for alcohol withdrawal protocol, thiamine, 
folate, MVI. Mr. ___ takes keppra and phenytoin at home, he 
has filled these in the last month per pharmacy fill record. He 
was admitted to ___ in ___ with breakthrough seizures, and 
since that time, he has been seen at ___ for seizures 
multiple times in the last 6 months, including ED visits and 
inpatient admissions. He had been discharged on keppra and 
oxcarbazepine at that time. Patient is admitted to the neuro ICU 
for close neurological monitoring. He was reintubated on ___ 
for severe agitation unresponsive to high dose Haldol, Seroquel, 
and max precedex drip. 

(According to Atrius records, in ___, Mr. ___ went to
alcohol rehab in ___ where his AEDs were switched from LEV 
+
OXC to LEV + PHT. He had, therefore, been taking phenytoin, 
prescribed by his neurologist at ___, Dr. ___
___, along with LEV. He had multiple phenytoin levels 
since ___ in the ___ records. His level was 15.8 on 
___ at 0930. 11.6 on ___. 23 ___, 12.1 ___, 
3.5 ___. EtOH levels between 0 and 302 noted going back to 
___. Plts noted to be in the 40-50 range since ___. Prior to that he had been in the low 100s going back to 
___ 
In speaking with his HCP he had missed his last neurology 
appointment. He is running out of meds, but still has some. Has 
a pillbox, missed some doses this week, his HCP noticed. At 
baseline has seizures 1x/day (staring spells, drooling for 30 
seconds). GTCs occur when he drinks a lot and on average are a 
couple times per month. He drinks everyday, vodka, many empty 
containers around in his apartment, drinking more in the last 
couple weeks.
 
Past Medical History:
- Seizure disorder (grand mal seizures as a child, then in 
remission for many years until recent recurrence) 
- ETOH Abuse, prior EtOH w/d Seizures.  Currently 8 weeks sober.
- Chronic Hyponatremia
 
Social History:
___
Family History:
-No family history of seizures
 
Physical Exam:
Vitals: T: 99.5F P: 115 R: 18 BP: 137/80 SaO2: 97% on room air.
General: Awake, does not follow commands. Sitting in bed
fidgeting with objects but not purposefully moving items,
talking, or tracking.
HEENT: MMM. 
Neck: Neck supple.
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Eyes open, awake, but does not answer questions
or follow commands. Alert and responds with unintelligible
mumbling, very soft. Does not answer when asked his name, age, 
or
any other questions. Shakes his head "no" in response to most
questions.
-Cranial Nerves:
II, III, IV, VI:  PERRL 2 to 1mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation by blink to
threat.
V: Unable to test facial sensation ___ AMS.
VII: No facial droop, facial musculature symmetric.
VIII: Unable to test ___ altered mental status.
IX, X: Unable to test ___ altered mental status.
XI: ___ strength in trapezii bilaterally.
XII: Tongue appeared midline.

-Motor: Tremor at rest and with action. 
Normal bulk, tone throughout. Moved all 4 extremities
spontaneously against gravity.
-Sensory: Flinched with minimal stimulation in all 4 
extremities.

-DTRs:
  ___ Tri ___ Pat Ach
L  2+ 2+  2+    3+   3
R  2+ 2+  2+    3+   3
Plantar response was extensor bilaterally.

-Coordination: + tremor

-Gait: Unsafe to test at this time.

DISCHARGE PHYSICAL EXAM
 
Pertinent Results:
___ 12:54PM BLOOD WBC-3.8* RBC-4.18* Hgb-12.8* Hct-37.6* 
MCV-90 MCH-30.6 MCHC-34.0 RDW-16.3* RDWSD-53.7* Plt Ct-42*
___ 12:16PM BLOOD ___ PTT-29.4 ___
___ 12:16PM BLOOD Glucose-102* UreaN-7 Creat-0.5 Na-138 
K-3.9 Cl-97 HCO3-23 AnGap-18
___ 01:43AM BLOOD ALT-38 AST-91* LD(LDH)-429* AlkPhos-88 
TotBili-0.9
___ 08:25PM BLOOD Calcium-7.4* Phos-2.9 Mg-1.3*
___ 01:43AM BLOOD Triglyc-172*
___ 04:02PM BLOOD Type-ART pO2-491* pCO2-40 pH-7.41 
calTCO2-26 Base XS-1
___ 04:02PM BLOOD Lactate-2.7*
___ 06:51AM BLOOD Lactate-1.___ year old man with a history of seizure disorder (on phenytoin 
and Levetiracetam) and alcohol use disorder (c/b alcohol 
withdrawal seizures), he presented with seizures s/p fall with 
headstrike and also found to have small parafalcine SDH in the 
setting of nonadherence to his medications and heavy drinking 
per his girlfriend. ___ of breakthrough seizures likely 
medication nonadherence and alcohol withdrawal. There were no 
signs of infection. He was intubated for airway protection after 
having several seizures in the emergency department. He was 
transfused platelets as he was noted to be thrombocytopenic 
(though this appears chronic). His 7mm parafalcine SDH was felt 
most likely to be traumatic in nature. This was stable on 
subsequent head CT. He was loaded with fosphenytoin, 
Levetiracetam, and phenobarbital in the emergency department. 
Fosphenytoin was not continued due to thrombocytopenia, as this 
had been noted to have worsened as an outpatient when he was 
switched from oxcarbazepine to phenytoin. Phenobarbital taper 
was continued per protocol. His cvEEG showed occasional L sided 
epileptiform discharges but no further seizures and EEG was 
discontinued. He self extubated on hospital day 2. Was cleared 
for a regular diet. Became very agitated, code purple called 
multiple times in the next ___ hours. Received ~25 mg Haldol for 
one code purple with some effect, additional 25 during another 
code purple with some effect. Precedex drip appeared to work 
well. Attempted to wean off precedex to clonidine, but again 
became agitated. Started on standing Haldol. Became agitated 
again and was reintubated. He was given a rescue dose of 
phenobarb 2.5 mg/kg and continued on taper. Seroquel 50 q8h was 
started. He was extubated ___. Psychiatry was consulted for 
agitation management. His Seroquel was increased to 150 mg q8h, 
Precedex was continued, Ativan was given PRN. Phenobarb taper 
discontinued as Ativan was started. QTc was monitored. Changed 
from keppra to valproate for seizure disorder, to see if it 
would be helpful from a mood stabilization perspective as well. 

Following the above changes, Mr. ___ was again successfully 
extubated, with scheduled doses of quetiapine and lorazepam used 
for agitation management. His dexmedetomidine infusion was 
weaned on this regimen, and lorazepam was switched to as-needed 
haloperidol due to concern for residual toxic-metabolic 
encephalopathy rather than ongoing alcohol withdrawal. A repeat 
24-hour period of cvEEG did not reveal seizures. He was 
stabilized on an oral regimen prior to transfer out of the ICU.

Once on the floor, his agitation remained very well controlled. 
His Seroquel was weaned and stopped prior to discharge. 

On the morning of ___, at approximately 8:10am he had an episode 
of speech arrest with stiffness and unresponsiveness for about 
10 minutes. This was felt to likely be another seizure. As he 
was only on monotherapy at this point, the decision was made to 
restart Keppra, at his home dose of 1500mg BID. Finally, given 
the possibility of hepatotoxicity (especially given his alcohol 
use), the decision was made to switch Depakote to Lacosamide. 
This was started at a dose of 50mg BID and was titrated up to 
150mg BID prior to discharge. He will increase to a final dose 
of 200mg BID.

Regarding his alcohol use, Psychiatry discussed the possibility 
of Naltrexone to reduce alcohol cravings. He was agreeable. 
Naltrexone was started at 25mg daily, and increased to 50mg 
daily prior to discharge. 

TRANSITIONAL ISSUES:
-Plan for Depakote wean: Take 250mg twice per day for one more 
day (through ___.
Then take 100mg twice per day for two days (___).
Then STOP.
-Plan for Lacosamide: Take 150mg twice per day for one more day 
(through ___.
Then increase to 200mg twice per day.
-Naltrexone started to control alcohol cravings.
- Needs PCP to see him prior to ___. Has no PCP. His girlfriend 
was contacted and instructed to arrange for PCP visit on ___ 
so he can receive ___ services. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 1500 mg PO BID 
2. Phenytoin Infatab 200 mg PO BID 

 
Discharge Medications:
1.  LACOSamide 150 mg PO BID 
___ twice a day for one more day (___). Then 200mg twice 
per day (starting ___. 
RX *lacosamide [Vimpat] 150 mg 1 tablet(s) by mouth twice a day 
Disp #*2 Tablet Refills:*0 
2.  LACOSamide 200 mg PO BID 
RX *lacosamide [Vimpat] 200 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
3.  Naltrexone 50 mg PO DAILY 
RX *naltrexone 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
4.  LevETIRAcetam 1500 mg PO BID 
RX *levetiracetam 750 mg 2 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*3 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Seizure
Alcohol withdrawal

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.

You were in the hospital after you had a seizure at home. We 
think this seizure may have been caused by missing your 
medications, or from alcohol withdrawal.

In the hospital, we gave you medications to control the symptoms 
of your alcohol withdrawal. You did not clearly have any more 
seizures, although you did have an episode of staring off, which 
may have been a seizure. We also made some changes to your 
seizure medicines. We hope these will give you better control 
over your seizures. 

When you leave the hospital, it is very important for you to 
take your medicines every day without missing any doses. This 
will help keep you from having seizures. According to 
___ law, you cannot drive for 6 months from you 
last seizure. You should also avoid heights, ladders, operating 
heavy machinery, or bathing/swimming unsupervised.

Please continue to adjust your medicines as follows:
-Depakote: Take 250mg twice per day for one more day (through 
___.
Then take 100mg twice per day for two days (___).
Then STOP.
-Lacosamide: Take 150mg twice per day for one more day (through 
___.
Then increase to 200mg twice per day (starting ___. 
Continue taking this dose.

Best wishes,
Your ___ team
 
Followup Instructions:
___